US03941821
To 17.5 ml. of 2N alcoholic potassium hydroxide solution (0.035 mole) is added 4.84 g. (0.035 mole) of thiobenzoic acid. The solution is cooled to room temperature and to this is added in small portions 10.05 g. (0.035 mole) of α, 2'-dichloro-4-biphenylylacetic acid. The reaction mixture is stirred at room temperature for 25 hours, then the solvent is removed, the residue dissolved in ether, filtered and washed with cold water. The ethereal solution is then dried over magnesium sulfate and evaporated to dryness to obtain α-benzoylthio-2'-chloro-4-biphenylylacetic acid.

reactant | potassium hydroxide | 0.035 mole, 2N | [OH-].[K+]
reactant | thiobenzoic acid | 0.035 mole | C(C1=CC=CC=C1)(=S)O | C7H6OS
reactant | α, 2'-dichloro-4-biphenylylacetic acid | 0.035 mole | ClC(C(=O)O)C1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C14H10Cl2O2
product | α-benzoylthio-2'-chloro-4-biphenylylacetic acid | C(C1=CC=CC=C1)(=O)SC(C(=O)O)C1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C21H15ClO3S
